US07145008B2
4-[4-(3-Methanesulfonyl-benzylamino)-5-trifluoromethyl-pyrimidin-2-ylamino]-1,3-dihydro-indol-2-one:
3-methanesulfonyl-benzylamine mono-acetate (150 mg, 0.61 mmol) and 4-(4-Chloro-5-trifluoromethyl-pyrimidin-2-ylamino)-1,3-dihydro-indol-2-one (200 mg, 1 eq) were combined with Et3N (136 mg, 2.2 eq) in dioxane (3 mL) at 100° C. for 3 hours. The reaction was cooled to RT and product crystallized by the addition of water to the crude reaction. The product was filtered of as a tan solid, 139 mg (48%). 1H NMR (DMSO-d6, 400 MHz) δ 3.11 (s, 3H), 3.39 (s, 2H), 4.62 (d, J=5.8 Hz, 2H), 6.48 (d, J=7.5 Hz, 1H), 6.96 (m, 1H), 7.07 (d, J=8.3 Hz, 1H), 7.53 (m, 2H), 7.75 (d, J=7.5 Hz, 1H), 7.83 (m, 2H), 8.19 (s, 1H), 9.08 (s, 1H), 10.31 (s, 1H); HPLC ret. time: 5.314 min. LRMS (M+) 478.2.

reactant | 3-methanesulfonyl-benzylamine mono-acetate | 0.61 mmol, 150 mg | C(C)(=O)O.CS(=O)(=O)C=1C=C(CN)C=CC1
reactant | 4-(4-Chloro-5-trifluoromethyl-pyrimidin-2-ylamino)-1,3-dihydro-indol-2-one | 200 mg, 1 eq | ClC1=NC(=NC=C1C(F)(F)F)NC1=C2CC(NC2=CC=C1)=O | C13H8ClF3N4O
reactant | Et3N | 136 mg, 2.2 eq | CCN(CC)CC | C6H15N
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 4-[4-(3-Methanesulfonyl-benzylamino)-5-trifluoromethyl-pyrimidin-2-ylamino]-1,3-dihydro-indol-2-one | CS(=O)(=O)C=1C=C(CNC2=NC(=NC=C2C(F)(F)F)NC2=C3CC(NC3=CC=C2)=O)C=CC1 | C21H18F3N5O3S
